US05146002
Synthesis of 1,4-bis(4-hydroxy-4-methyl-3-oxopentanoyl)benzene
In a 100 ml three-necked flask equipped with a mechanical stirrer, dropping funnel, reflux condenser, and a nitogen-inlet tube, 9.9 gm (57 mmol) of above-mentioned 3-(1-ethoxyethoxy)-3-methyl-butane-2-one, 2.3 gm (57 mmol) of 60% sodium hydride, 5.0 gm (25 mmol) of dimethylterephthalate and 50 ml of anhydrous tetrahydrofuran were mixed with stirring under nitrogen stream, and the refluxing under heat was continued for 7 hours. After cooling the reaction mixture, 30 ml of 2N hydrochloric acid was added and the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was removed by evaporation. The reaction mixture was stirred at room temperature while adding 30 ml of methnol with ten drops of 2N hydrochloric acid. A mixed solvent of acetone-chloroform was added to the crude product, and recrystallization afforded 4.1 gm of the targe compound as pale yellow crystals (yield: 48%).

reactant | 3-(1-ethoxyethoxy)-3-methyl-butane-2-one | 57 mmol, 9.9 gm | C(C)OC(C)OC(C(C)=O)(C)C | C9H18O3
reactant | sodium hydride | 57 mmol, 2.3 gm | [H-].[Na+]
reactant | dimethylterephthalate | 25 mmol, 5.0 gm | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1,4-bis(4-hydroxy-4-methyl-3-oxopentanoyl)benzene | 4.1 gm, yield: 48% | OC(C(CC(=O)C1=CC=C(C=C1)C(CC(C(C)(O)C)=O)=O)=O)(C)C | C18H22O6
